US07528160B2
7-Methoxy-3,4-dihydro-1H-quinolin-2-one
A solution of 3-(4-methoxy-2-nitro-phenyl)-acrylic acid methyl ester (4.00 g, 16.9 mmol) in MeOH (100 mL) and EtOAc (20 mL) is added a slurry of Pd/C (200 mg) in EtOH (20 mL). The suspension is hydrogenated under a pressure of 60 psi for 12 hours. The mixture is then filter through a pad of celite and the filtrate is concentrated and purified on silica gel chromatography column with 30-40-50% EtOAc/Hexanes to obtain the title product (1.30 g, 43%) and an uncyclized by-product (0.60 g).

reactant | 3-(4-methoxy-2-nitro-phenyl)-acrylic acid methyl ester | 16.9 mmol, 4.00 g | COC(C=CC1=C(C=C(C=C1)OC)[N+](=O)[O-])=O | C11H11NO5
solvent | MeOH | 100 mL | CO | CH4O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 20 mL | CCO | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 7-Methoxy-3,4-dihydro-1H-quinolin-2-one | 1.30 g, 43% | COC1=CC=C2CCC(NC2=C1)=O | C10H11NO2
